US08383635B2
2-(methylthio)-4-{[4-(methylthio)phenyl]amino}pyrido[4,3-d]pyrimidin-5(6H)-one
A round bottom flask was charged with 5-[(E)-2-(dimethylamino)ethenyl]-7-(methylthio)-1-[4-(methylthio)phenyl]pyrimido[4,5-d]pyrimidin-4(1H)-one (0.43 g, 1.30 mmol) and acetic acid (50 mL). The reaction was stirred at reflux for 18 h and acetic acid was removed under vacuum. Methylene chloride (20 mL) was added to the residue and the product was collected by filtration (0.27 g, 75% yield).

reactant | 5-[(E)-2-(dimethylamino)ethenyl]-7-(methylthio)-1-[4-(methylthio)phenyl]pyrimido[4,5-d]pyrimidin-4(1H)-one | 1.30 mmol, 0.43 g | CN(/C=C/C1=C2C(=NC(=N1)SC)N(C=NC2=O)C2=CC=C(C=C2)SC)C | C18H19N5OS2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2-(methylthio)-4-{[4-(methylthio)phenyl]amino}pyrido[4,3-d]pyrimidin-5(6H)-one | 75% yield | CSC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC=C(C=C2)SC | C15H14N4OS2
